US07351733B2
6-Chloro-N-phenyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one and aniline in a similar manner as described in Example 13 to give 200 mg (74% yield) of a yellow solid. 1H-NMR (CDCl3): δ 8.04 (s, 1H), 7.46 (d, 1H), 7.27-7.20 (m, 2H), 7.17 (dd, 1H), 7.10 (dd, 1H), 6.79 (m, 1H), 6.74 (m, 2H), 4.81 (m, 1H), 3.85 (s, 1H), 2.70 (m, 2H), 2.25 (m, 1H), 2.03 (m, 1H), 1.93-1.78 (m, 2H); MS m/z 295 (M−1).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one | ClC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10ClNO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 6-Chloro-N-phenyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC1=CC=CC=C1 | C18H17ClN2
